US04950674
α, α-Bis(3,4-difluorophenyl)-4-pyridinemethanol
To a magnetically stirred solution of ethyl isonicotinate in dry tetrahydrofuran at 0° C. and under an atmosphere of nitrogen is slowly added a solution 2.2 equivalents of 3,4-difluorophenyl magnesium bromide in tetrahydrofuran. The solution is stirred at ambient temperature of 4 hr and is poured into an icy solution of ammonium chloride. The mixture is extracted with methylene chloride, and the organic phase is dried (sodium sulfate). The solvent is removed in vacuo to give a solid. This solid is recrystallized from methylene chloride/hexane to give the title compound as a white, crystalline solid, mp 147°-149° C.

reactant | ethyl isonicotinate | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
reactant | 3,4-difluorophenyl magnesium bromide | 2.2 equivalents | FC=1C=C(C=CC1F)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α, α-Bis(3,4-difluorophenyl)-4-pyridinemethanol | FC=1C=C(C=CC1F)C(O)(C1=CC=NC=C1)C1=CC(=C(C=C1)F)F | C18H11F4NO
